US05807857
b) N,N-Dimethyl-2-(2-acetylamino-5-nitropyridin-4-yl)ethenamine
To a solution of 2-acetylamino-4-methyl-5-nitropyridine (33.8 g, 0.173 mol) in dry DMF (300 mL) was added dimethylformamide dimethyl acetal (50.7 mL, 0.381 mol) and the mixture heated at 90° C. for 90 min. The solvent was evaporated in vacuo using toluene as an azeotrope. The residue was triturated with ether and the solid collected by filtration to give the title compound (33 g, 76%) as an orange solid. mp 193°-196° C. 1H NMR (250 MHz, CDCl3) δ 2.23 (3H, s), 3.04 (6H, s), 6.12 (1H, d, J=13.1Hz), 7.43 (1H, d, J=13.1Hz), 8.17 (1H, br s), 8.27 (1H, s) and 8.83 (1H, s).

reactant | 2-acetylamino-4-methyl-5-nitropyridine | 0.173 mol, 33.8 g | C(C)(=O)NC1=NC=C(C(=C1)C)[N+](=O)[O-] | C8H9N3O3
reactant | dimethylformamide dimethyl acetal | 0.381 mol, 50.7 mL | COC(N(C)C)OC | C5H13NO2
solvent | DMF | 300 mL | CN(C)C=O | C3H7NO
product | N,N-Dimethyl-2-(2-acetylamino-5-nitropyridin-4-yl)ethenamine | 33 g, 76% | CN(C=CC1=CC(=NC=C1[N+](=O)[O-])NC(C)=O)C | C11H14N4O3
